US08314081B2
To a 1000 mL dry round bottom flask were added triphosgene (24.2 g, 81.5 mmol) and anhydrous CH2Cl2 (500 mL). The mixture was stirred in a dry ice-acetone bath, then a solution of 2-(benzyl(methyl)amino)ethyl acetate (50.7 g, 244.6 mmol) in 150 mL of anhydrous CH2Cl2 was added slowly. After the addition, the resulting mixture was cooled in an ice-water bath, then warmed slowly to room temperature, followed being stirred at room temperature overnight. After removal of the volatile materials, the residue was purified with a silica gel chromatography (heptane/ethyl acetate, gradient eluting) to give 2-(chlorocarbonyl(methyl)amino)ethyl acetate (40.2 g) as a yellow oil. Yield: 92%. 1H NMR (CDCl3, 300 MHz, mixture of two isomers): isomer 1: δ=4.27 (t, J=5.7 Hz, 2H), 3.76 (t, J=5.7 Hz, 2H), 3.10 (s, 3H), 2.09 (s, 3H); isomer 2: δ=4.26 (t, J=5.1 Hz, 2H), 3.66 (t, J=5.1 Hz, 2H), 3.20 (s, 3H), 2.07 (s, 3H). 13C NMR (CDCl3, 75.5 MHz, mixture of two isomers): δ=170.5, 149.9, 149.0, 61.2, 61.1, 51.4, 50.0, 39.4, 37.4, 20.7.

reactant | triphosgene | 81.5 mmol, 24.2 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-(benzyl(methyl)amino)ethyl acetate | 244.6 mmol, 50.7 g | C(C)(=O)OCCN(C)CC1=CC=CC=C1 | C12H17NO2
reactant | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-(chlorocarbonyl(methyl)amino)ethyl acetate | 40.2 g, Yield: 92% | C(C)(=O)OCCN(C)C(=O)Cl | C6H10ClNO3
